US05110956
This residue (non-purified) was added to a solution of 3.8 g of sodium hydride in 150 ml of dimethylformamide. The mixture was stirred at 60° C. for 30 min and the reaction mixture was cooled to room temperature. 13.7 g of benzyl chloride was added dropwise thereto and the reaction was conducted at 60° C. again for 1 h. The reaction mixture was poured into ice/water. After extraction with ethyl acetate, the extract was dried over magnesium sulfate and concentrated under reduced pressure to obtain crude benzyl ether. After purification according to silica gel column chromatography (ethyl acetate/ hexane=3:97), 12.0 g of the intended compound was obtained in the form of a faint yellow oil.

reactant | sodium hydride | 3.8 g | [H-].[Na+]
reactant | benzyl chloride | 13.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
